US05854262
A. Methyl-2-methoxy-5-nitrobenzoate
A 500 ml round bottom flask was charged with 5.35 grams of 60% sodium hydride dispersion and the solid was washed twice with hexane and decanted (under nitrogen). The residue was suspended in 200 mL of dimethylformamide (DMF), cooled to 0° C. and was treated with 11 grams (60 mmol) of 2-hydroxy-5-nitrobenzoic acid. The reaction mixture was stirred for 1 hour at 0° C. The mixture was then treated with 17 mL (180 mmol) dimethyl sulfate and was allowed to warm to room temperature while stirring for 1.5 hours. An additional 17 mL of dimethyl sulfate was added and the reaction was stirred overnight at room temperature. The mixture was diluted with 1.5 L ethyl acetate and was washed with 400 ml of 0.75M aqueous sodium hydroxide (NaOH) solution followed by 400 mL of saturated bicarbonate solution, 400 mL of water and 500 mL of saturated brine. The organic phase was dried and evaporated. There was obtained 11.6 grams of the desired product as yellow flakes. The material was generally used without purification.

reactant | sodium hydride | 5.35 grams | [H-].[Na+]
reactant | 2-hydroxy-5-nitrobenzoic acid | 60 mmol, 11 grams | OC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H5NO5
reactant | dimethyl sulfate | 180 mmol, 17 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | dimethyl sulfate | 17 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | ethyl acetate | 1.5 L | C(C)(=O)OCC | C4H8O2
product | Methyl-2-methoxy-5-nitrobenzoate | 11.6 grams | COC(C1=C(C=CC(=C1)[N+](=O)[O-])OC)=O | C9H9NO5
